US04906402
Butyl (R)-2-(4-[4-(3-chloro-4-octyloxyphenyl)phenylcarbonyloxy]phenoxy)propanoate (BCOPOP)
This was prepared by the methods of Examples 2(b) and 2(c) using butanol instead of propanol and using 4-(3-chloro-4-octoxyphenyl)benzoyl chloride and Butyl (R)-2-(4-hydroxyphenoxy)propanoate (BHPP) in place of the OPBC and PHPTB used in Example 2(c), (yield 15%, SOR: +16°). The results of IR, 1H-NMR and mass spectroscopy and elemental analysis were consistent with the assigned structure.

reactant | 4-(3-chloro-4-octoxyphenyl)benzoyl chloride | ClC=1C=C(C=CC1OCCCCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C21H24Cl2O2
reactant | Butyl (R)-2-(4-hydroxyphenoxy)propanoate | OC1=CC=C(O[C@@H](C(=O)OCCCC)C)C=C1 | C13H18O4
solvent | butanol | C(CCC)O | C4H10O
product | Butyl (R)-2-(4-[4-(3-chloro-4-octyloxyphenyl)phenylcarbonyloxy]phenoxy)propanoate | yield 15% | ClC=1C=C(C=CC1OCCCCCCCC)C1=CC=C(C=C1)C(=O)OC1=CC=C(O[C@@H](C(=O)OCCCC)C)C=C1 | C34H41ClO6
